US09193669B2
Sulfonation of 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione by benzenesulfonyl chloride following the method used in Example 6 gave N-(3-(3-(1,3-dioxoisoindolin-2-yl)propyl)phenyl)benzenesulfonamide as a yellow semi-solid. Yield (0.80 g, 62%). 1H NMR (400 MHz, DMSO-d6) δ 10.18 (s, 1H), 7.87-7.81 (m, 4H), 7.72 (d, J=7.6 Hz, 2H), 7.58-7.49 (m, 3H), 7.11 (t, J=8.0, 1H), 6.92 (s, 1H), 6.88-6.85 (m, 2H), 3.52 (t, J=7.2 Hz, 2H), 2.50-2.49 (m, 2H), 1.81-1.74 (m, 2H).

reactant | 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione | NC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H16N2O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(3-(3-(1,3-dioxoisoindolin-2-yl)propyl)phenyl)benzenesulfonamide | O=C1N(C(C2=CC=CC=C12)=O)CCCC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C23H20N2O4S
